US06482852B2
(g) (S)-2-tert-Butoxycarbonylamino-3-(4-ethoxycarbonylmethoxy-3-ethoxycarbonylmethyl-phenyl)-propionic acid
To a solution of (S)-2-tert-butoxycarbonylamino-3-(4-ethoxycarbonylmethoxy-3-ethoxycarbonylmethyl-phenyl)-propionic acid benzyl ester (796 mg, 1.46 mmol) in MeOH (8 mL) was added 10% Pd/C (4 mg). The heterogeneous mixture was degassed under reduced pressure and allowed to stir at rt for 18 h under H2. The catalyst was removed by filtration and the filtrate evaporated to dryness to give the product as a colorless foam (515 mg, 78%) Electrospray Mass Spectrum (50/50 acetonitrile/water) m/z 476 (M+Na).

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-ethoxycarbonylmethoxy-3-ethoxycarbonylmethyl-phenyl)-propionic acid benzyl ester | 1.46 mmol, 796 mg | C(C1=CC=CC=C1)OC([C@H](CC1=CC(=C(C=C1)OCC(=O)OCC)CC(=O)OCC)NC(=O)OC(C)(C)C)=O | C29H37NO9
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Pd/C | 4 mg | [Pd] | Pd
product | (S)-2-tert-Butoxycarbonylamino-3-(4-ethoxycarbonylmethoxy-3-ethoxycarbonylmethyl-phenyl)-propionic acid | 515 mg, 78% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OCC)CC(=O)OCC | C22H31NO9
